US04371713
In the same reaction apparatus as in Example 1, 150 g of 25% fuming sulfuric acid was dropwise added over a period of one hour to 500 g of tetrahydrofuran while being maintained at -20° C., and after completion of the dropwise addition, the mixture was further subjected to reaction at -20° C. for 10 minutes. The conversion at this point was 14%. Then, the reaction temperature was elevated to 30° C. and the reaction was continued for one hour. The conversion at the end of this reaction was 47%. Neither solidification nor coloration of the reaction system was observed throughout the period of the reaction. Then, 180 g of ion exchanged water was added to the reaction mixture with stirring well to terminate the reaction, followed by addition of 145 g of a 45% by weight sodium hydroxide solution to neutralize a part of the sulfuric acid. After replacing the dropping funnel by a distilling column, the reaction mixture was heated in an oil bath at 95° C. for 2 hours to perform the hydrolysis of the polymerization product terminals while distilling off unreacted tetrahydrofuran. After completion of the reaction, the reaction product was allowed to stand at room temperature to cool the same. The separated aqueous layer was withdrawn and the residual oil layer was treated in the same manner as in Example 1 to obtain colorless liquid PTMG. The analytical results of the product and the catalytic efficiency α were as shown in Table 1.

reactant | sulfuric acid | 150 g | S(O)(O)(=O)=O | H2O4S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | PTMG | CCCCO[C@@H](CC)CO | C8H18O2
